US04643999
Using the procedure of Example 2, 2-benzoyl-7-methoxyimidazo[1,2-c]pyrimidin-5-one and iodopropane were reacted to obtain 2-benzoyl-7-methoxy-6-propyl-imidazo[1,2-c]pyrimidin-5-one. Spectral, yield and melting point data are given in Table I.

reactant | 2-benzoyl-7-methoxyimidazo[1,2-c]pyrimidin-5-one | C(C1=CC=CC=C1)(=O)C1=NC=2N(C(N=C(C2)OC)=O)C1 | C14H11N3O3
reactant | iodopropane | ICCC | C3H7I
product | 2-benzoyl-7-methoxy-6-propyl-imidazo[1,2-c]pyrimidin-5-one | C(C1=CC=CC=C1)(=O)C=1N=C2N(C(N(C(=C2)OC)CCC)=O)C1 | C17H17N3O3
